* C:\Users\Fitz Dumlao\Desktop\CueHa\copy.asc
* Generated by LTspice 24.1.9 for Windows.
Vsupply1 Vac 0 SINE(0 {12.6*1.414} 500)
Rload1 N005 Vis 16.5
Lload1 Vac N005 4mH
Rs1 Vis 0 0.5
Ra1 Vac Vvs 100k
Rb1 Vvs 0 4.7k
X§U1 N003 N002 5V 0 Vio LM324
R1 N003 Vis 1k
R2 N002 0 1k
R3 Vio N002 2.3k
R4 2.1V N003 2.3k
X§U2 N006 N004 5V 0 Vvo LM324
R5 N006 Vvs 1k
R6 N004 0 5.6k
R7 Vvo N004 5.6k
R8 2.1V N006 5.6k
X§Reg1 0 5V Vin LT1085-5
RL1 5V 0 100
Rin1 Vin N001 33
D1 Vac N001 1N4148
Cin1 Vin 0 47µ Rser=0.001
Cout1 5V 0 10µ Rser=0.001
R9 5V N008 3.3k
R10 N008 0 2.4k
X§U3 N008 2.1V 5V 0 2.1V LM324
Rf1 Vvs_filtered Vvo 10k
Cf1 0 Vvs_filtered 1.6n
X§U4 N007 2.1V 5V 0 Zero_crossing LM324
R11 N007 Vvo 200k
R12 Zero_crossing N007 3.5Meg
Rf2 Vis_filtered Vio 10k
Cf2 0 Vis_filtered 1.6n
C1 N004 Vvo 2.7n
C2 N002 Vio 6.8n
C3 N006 2.1V 2.7n
C4 N003 2.1V 2.8n
C5 N008 0 6.8n
.model D D
.lib C:\Users\Fitz Dumlao\AppData\Local\LTspice\lib\cmp\standard.dio
* Load \n(2.5VA-7.5VA)
* Current Sens \n(Pmax=200mW)
* Current Sensing Circuit Signal Conditioning
* Voltage Sensing Circuit Signal Conditioning
* AC Source, Load and Sensors
* Voltage regulator Circuit
* .ac dec 30 1 1Meg
.lib LM324.lib
* Simulation Commands
.tran 0 0.05 0 0.01m
.ic V(Vin)=8
* Voltage divider to get 2.1V
* Low Pass Filter Circuit Signal Confitioning
* schmitt trigger(zero crossing circuit)
* Rectification
* Smoothing\nSmooths the pulsating DC \ninto a more steady DC \nby charging/discharging
* Voltage regulator\nMaintains a constant \nDC voltage output
* To converts \nAC VOLTAGE to \npulsating DC
* Smoothing\nsmooths out any\n remaining ripple\n or noise in \nthe DC output
* Current Sensing\nUse of 0.5ohm shunt resistor
* Voltage Sensing\nUse of Voltage divider
* This circuit mainly to get\n2.1VDC from 5V supply by \nusing simple voltage \ndivider followed by a buffer \nthat isolates the source from\nthe next stage
* This circuit aims to amplify \nsmall signal from current sensing by \n2.3(chosen to maximise the limits)\nand shited it by 2.1V so the signal\ndoes not get clipped(as the op amp is \nsingle rail supplied)
* This circuit aims to only \nshift the signal so it it \ndoes not get clipped by the\nlimit. The gain of op amp is\nthus 1 with taking into account\nof the Thevenin resistance from\nthe voltage sensing circuit
* This circuits(Low Pass Filter) aim to filter \nout noise (usually 100s of kHz)\nwith both cut off frequency of 10kHz
* Signal Conditioning
.lib LT1083.lib
.backanno
.end
